US08440830B2
To a solution of compound N-(2-aminophenyl)-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxamide (1.0 eq) in DMF was added Et3N (3.0 eq.) followed by Pyridin-3-yl-carbamic acid phenyl ester (1.0 eq). Reaction was stirred at room temperature for overnight. Reaction mixture was then quenched with water and extracted with ethyl acetate, dried over sodium sulphate and concentrated to dryness. Crude mass was then purified by silica gel column chromatography to afford N2-(2-aminophenyl)-1-methyl-N5-pyridin-3-yl-1,4,6,7-tetrahydro-5H-pyrrolo[3,2-c]pyridine-2,5-dicarboxamide.

reactant | N-(2-aminophenyl)-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxamide | 1.0 eq | NC1=C(C=CC=C1)NC(=O)C1=CC=2CNCCC2N1C | C15H18N4O
reactant | Et3N | 3.0 eq. | CCN(CC)CC | C6H15N
reactant | Pyridin-3-yl-carbamic acid phenyl ester | 1.0 eq | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N2-(2-aminophenyl)-1-methyl-N5-pyridin-3-yl-1,4,6,7-tetrahydro-5H-pyrrolo[3,2-c]pyridine-2,5-dicarboxamide | NC1=C(C=CC=C1)NC(=O)C1=CC=2CN(CCC2N1C)C(=O)NC=1C=NC=CC1 | C21H22N6O2
